US05958376
c. N,N'-bis[2,4,6-triiodo-3,5-bis(2,3-dihydroxypropylaminocarbonyl) phenyl]-urea
N,N'-bis[2,4,6-triiodo-3,5-bis(2,3-diacetoxypropylaminocarbonyl)phenyl]-urea (4.0 g, 2.26 mmol) was dissolved in a 1:1 mixture of water and methanol (25 ml) containing NaOH (1.44 g, 36 mmol). After stirring for 6 h at 40° C., the solution was treated with a strongly acidic ion exchange resin (Amberlyst 15), the solvent was separated and evaporated to give pure product. Yield: 3.24 g (100%).

reactant | N,N'-bis[2,4,6-triiodo-3,5-bis(2,3-diacetoxypropylaminocarbonyl)phenyl]-urea | 2.26 mmol, 4.0 g | IC1=C(C(=C(C(=C1C(=O)NCC(COC(C)=O)OC(C)=O)I)C(=O)NCC(COC(C)=O)OC(C)=O)I)NC(=O)NC1=C(C(=C(C(=C1I)C(=O)NCC(COC(C)=O)OC(C)=O)I)C(=O)NCC(COC(C)=O)OC(C)=O)I | C45H50I6N6O21
reactant | NaOH | 36 mmol, 1.44 g | [OH-].[Na+]
solvent | water | O | H2O
solvent | methanol | 25 ml | CO | CH4O
product | N,N'-bis[2,4,6-triiodo-3,5-bis(2,3-dihydroxypropylaminocarbonyl) phenyl]-urea | IC1=C(C(=C(C(=C1C(=O)NCC(CO)O)I)C(=O)NCC(CO)O)I)NC(=O)NC1=C(C(=C(C(=C1I)C(=O)NCC(CO)O)I)C(=O)NCC(CO)O)I | C29H34I6N6O13
